US07456218B2
methyl 3-bromo-4-isopropoxybenzoate
To a solution of methyl 3-bromo-4-hydroxybenzoate (15.0 g, 64.9 mmol), 2-bromopropane (7.68 mL, 77.9 mmol) and potassium iodide (1.0 g, 6.49 mmol) in N,N-dimethylformamide (200 mL) was added potassium carbonate (13.5 g, 97.4 mmol) and the mixture was stirred at 80° C. for 2 hrs. The reaction mixture was concentrated under reduced pressure. Brine was added to the obtained residue and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane-hexane/ethyl acetate=9/1) to give the title compound (14.6 g, yield 83%) as a colorless oil.

reactant | methyl 3-bromo-4-hydroxybenzoate | 64.9 mmol, 15.0 g | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
reactant | 2-bromopropane | 77.9 mmol, 7.68 mL | BrC(C)C | C3H7Br
reactant | potassium iodide | 6.49 mmol, 1.0 g | [I-].[K+]
reactant | potassium carbonate | 97.4 mmol, 13.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | methyl 3-bromo-4-isopropoxybenzoate | 14.6 g, yield 83% | BrC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13BrO3
